US07825264B2
a) tert-Butyl [2-(3,4-difluorophenyl)-1-(4-fluorophenyl)-2-oxoethyl]carbamate
30.0 g (79 mmol) of tert-butyl [(4-fluorophenyl)(toluene-4-sulfonyl)methyl]carbamate, 5.9 g (23 mmol) of 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide, 164 ml (1.2 mol) of triethylamine and 11.2 g (79 mmol) of 3,4-difluorobenzaldehyde were mixed in 700 ml of methylene chloride at room temperature and then heated at 35° C. for 6 h. After reaction of the aldehyde was complete, saturated ammonium chloride solution was added, and the reaction mixture was stirred for 15 minutes. After removal of the aqueous phase, the organic phase was washed with 0.5 M sodium hydroxide solution and saturated sodium chloride solution to result in 29.0 g of tert-butyl [2-(3,4-difluorophenyl)-1-(4-fluorophenyl)-2-oxoethyl]carbamate, which was reacted further without purification.

reactant | tert-butyl [(4-fluorophenyl)(toluene-4-sulfonyl)methyl]carbamate | 79 mmol, 30.0 g | FC1=CC=C(C=C1)C(S(=O)(=O)C1=CC=C(C=C1)C)NC(OC(C)(C)C)=O | C19H22FNO4S
reactant | triethylamine | 1.2 mol, 164 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-difluorobenzaldehyde | 79 mmol, 11.2 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide | 23 mmol, 5.9 g | [Br-].C(C)[N+]1=CSC(=C1C)CCO
solvent | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl [2-(3,4-difluorophenyl)-1-(4-fluorophenyl)-2-oxoethyl]carbamate | FC=1C=C(C=CC1F)C(C(C1=CC=C(C=C1)F)NC(OC(C)(C)C)=O)=O | C19H18F3NO3
